US06713515B2
Ethyl 4-[1-(5,6,7,8-tetrahydro-3,5,5-trimethyl-8-oxo-2-naphthalenyl)-2-trimethylsilyl -ethenyl]benzoate
A solution of 1,2,3,4-tetrahydro-4,4,6-trimethyl-1-oxo-7-bromonaphthalene (8.5 g, 31.8 mmol) was purged with argon (2×). Lithium chloride (4.0 g), copper iodide (0.860 g), tetrakis(triphenylphosphine)palladium(0) (1.8 g, 1.6 mmol) and ethyl 4-(1-(tributylstannyl)-2-(trimethylsilyl)-ethen-1-yl)-benzoate (24.0 g, 44.5 mmol) were then added and the resulting mixture was again purged with argon. The mixture was heated to 80° C. for ˜4 hours, and then cooled to room temperature. The mixture was poured into cold water (1 L) and was diluted with ethyl ether. The organic phase was separated, washed with cold water (2×1 L), saturated sodium bicarbonate (1 L), brine, dried over anhydrous magnesium sulfate, filtered and concentrated. The residue was purified by silica gel chromatography (8×15 cm, 0 to 5% ethyl acetate/toluene) to give the title material which was triturated in hexane (12.2 g, 88%).

reactant | 1,2,3,4-tetrahydro-4,4,6-trimethyl-1-oxo-7-bromonaphthalene | 31.8 mmol, 8.5 g | CC1(CCC(C2=CC(=C(C=C12)C)Br)=O)C | C13H15BrO
reactant | Lithium chloride | 4.0 g | [Cl-].[Li+]
reactant | ethyl 4-(1-(tributylstannyl)-2-(trimethylsilyl)-ethen-1-yl)-benzoate | 44.5 mmol, 24.0 g | C(CCC)[Sn](C(=C[Si](C)(C)C)C1=CC=C(C(=O)OCC)C=C1)(CCCC)CCCC
catalyst | copper iodide | 0.860 g | [Cu](I)I
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.6 mmol, 1.8 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Ethyl 4-[1-(5,6,7,8-tetrahydro-3,5,5-trimethyl-8-oxo-2-naphthalenyl)-2-trimethylsilyl -ethenyl]benzoate | CC=1C(=CC=2C(CCC(C2C1)(C)C)=O)C(=C[Si](C)(C)C)C1=CC=C(C(=O)OCC)C=C1 | C27H34O3Si
